US03965157
The 2-cyclohexyl-2-acetoxyacetaldehyde dithiane (6.0 g.) in acetonitrile (300 ml.) was added to a stirred suspension of mercuric chloride (19.2 g.) and cadmium carbonate (11.6 g.) in acetonitrile (200 ml.) and water (4 ml.). The mixture was then stirred at 50° to 60°C. under nitrogen for 36 hours. The acetonitrile was removed in vacuo and the residue was washed several times with benzene and once with chloroform. Evaporation of the solvent and distillation of the residue gave 2-cyclohexyl-2-acetoxyacetaldehyde as a colourless oil, b.p. 120°C. (air bath)/0.5 mm., 3.9 g. (95%).

reactant | 2-cyclohexyl-2-acetoxyacetaldehyde dithiane | 6.0 g | S1SCCCC1.C1(CCCCC1)C(C=O)OC(C)=O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
catalyst | cadmium carbonate | 11.6 g | C([O-])([O-])=O.[Cd+2]
product | 2-cyclohexyl-2-acetoxyacetaldehyde | C1(CCCCC1)C(C=O)OC(C)=O | C10H16O3
